US07541458B2
1,2-bis(triethylsilyloxy)-1-(trimethylsilyloxy)ethene
To a solution of diisopropylamine (15.5 mL, 0.11 mol) in THF (100 mL) at −78° C. was added a 1.6 M hexanes solution of n-butyl lithium (70 mL, 0.11 mol) over 15 minutes. After stirring for an additional 15 minutes at this temperature, triethylsilylchloride (16.7 mL, 0.1 mol) was added over 10 minutes followed by the addition of triethylsilyl 2-(triethylsiloxy)acetate (37.6 g, 0.1 mol) over 30 minutes. The reaction was stirred at −78° C. for 30 minutes and warmed to ambient temperature by removing the cryogenic bath and the THF solvent was removed by vacuum rotary evaporation at 40° C. to precipitate the lithium chloride. The mixture was taken up in 300 mL of hexanes and 5 mL of triethylamine and stirred for 5 minutes and the salt was allowed to settle. The supernatant was twice filtered through a pad of diatomaceous earth to give a clear solution. The solution was concentrated under rotary evaporation to give the lightly yellow colored oil product as a 1:1 mixture of geometrical isomers.

reactant | diisopropylamine | 0.11 mol, 15.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.11 mol, 70 mL | C(CCC)[Li]
reactant | triethylsilylchloride | 0.1 mol, 16.7 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | triethylsilyl 2-(triethylsiloxy)acetate | 0.1 mol, 37.6 g | C(C)[Si](OCC(=O)O[Si](CC)(CC)CC)(CC)CC | C14H32O3Si2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1,2-bis(triethylsilyloxy)-1-(trimethylsilyloxy)ethene | C(C)[Si](OC(=CO[Si](CC)(CC)CC)O[Si](C)(C)C)(CC)CC | C17H40O3Si3
